US03987047
11-[β-Phenyl-ethyl]oxy-1,2,4,5-tetrahydro-3-azepino[4,5-b] quinoline-carboxylic acid ethyl ester hydrochloride was prepared from 3-benzyl-11-[β-phenyl-ethyl]oxy-1,2,4,5-tetrahydro -3H-azepino[4,5-b]quinoline and ethyl chloroformate analogous to Example 208. Yield: 51% of theory; m.p. 153° C.

reactant | 3-benzyl-11-[β-phenyl-ethyl]oxy-1,2,4,5-tetrahydro -3H-azepino[4,5-b]quinoline | C(C1=CC=CC=C1)N1CCC2=NC=3C=CC=CC3C(=C2CC1)OCCC1=CC=CC=C1 | C28H28N2O
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 11-[β-Phenyl-ethyl]oxy-1,2,4,5-tetrahydro-3-azepino[4,5-b] quinoline-carboxylic acid ethyl ester hydrochloride | Yield: 51% | Cl.C(C)OC(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)OCCC1=CC=CC=C1 | InChI=1S/C24H26N2O3.ClH/c1-2-28-24(27)26-15-12-20-22(13-16-26)25-21-11-7-6-10-19(21)23(20)29-17-14-18-8-4-3-5-9-18;/h3-11H,2,12-17H2,1H3;1H
